US04288436
2-Ethoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid (syn isomer) (3.0 g.) and 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (4.12 g.) were reacted according to similar manners to those of Examples 1(b), 2(b), 3(b) and 6(b) to give 7-[2-ethoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (3.6 g.).

reactant | 2-Ethoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid | 3.0 g | C(C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C8H9N3O4S
reactant | 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 4.12 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O | C11H12N6O5S2
product | 7-[2-ethoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.6 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C19H19N9O8S3
